US05635369
The assay of styrene oxide hydrolase activity in the strains PES1-5 and PES1-53 demonstrates the formation from styrene oxide of approximately 1 to 2 nmol of 2-phenyl-2-hydroxyethanol per min and per mg of microsomal proteins. This activity is undetectable in the other strains of the PES1 series. The reductase activity of the strain PES1-53 is comparable to that of the strain PES1-34. The strain PES1-53 transformed with an expression plasmid which codes for cytochrome P450 1A1 is capable, on incubation with benzo(a)pyrene, of hydrolysing the benzo(a)pyrene 7,8-oxide formed in situ to benzo(a)pyrene-7,8-diol. These activities are demonstrated in FIG. 13, which shows an HPLC separation of the metabolites of benzo(a)pyrene formed on incubation of this pollutant with strains PES1-2, PES1-3 and PES1-53 transformed to express murine cytochrome P450 1A1. Clearly, only the strain PES1-53 permits the formation of benzo(a)pyrene-7,8-diol in large amounts. This molecule is an important intermediate in the degradation of the carcinogenic industrial pollutant, benzo(a)pyrene.

reactant | styrene oxide | C1C(C2=CC=CC=C2)O1 | C8H8O
reactant | 2-phenyl-2-hydroxyethanol | approximately 1 to 2 nmol | C1(=CC=CC=C1)C(CO)O | C8H10O2
reactant | benzo(a)pyrene | C1=CC=C2C=CC=3C=C4C(=C5C=CC1=C2C53)C=CC=C4 | C20H12
reactant | benzo(a)pyrene 7,8-oxide | C1=CC2=C3C(=C1)C=CC4=C3C(=CC5=C4C=CC6C5O6)C=C2 | C20H12O
product | benzo(a)pyrene-7,8-diol | C1=CC=C2C=CC=3C=C4C(=C5C=CC1=C2C53)C=CC(=C4O)O | C20H12O2
